US04607034
Synthesis of N-(4-methoxyphenylcarbamoyl)piperazine
Suspension of 3.25 g. (10 mmole) of N-benzyl-N'-(4-methoxyphenylcarbamoyl)piperazine and 0.10 g. of 5%-palladium-carbon was stirred under hydrogen at 60° C. for 7 hours. After the catalyst was filtered off, ethanol was evaporated under reduced pressure to give 1.92 g. of the desired product as oily substance.

reactant | N-benzyl-N'-(4-methoxyphenylcarbamoyl)piperazine | 10 mmole | C(C1=CC=CC=C1)N1CCN(CC1)C(NC1=CC=C(C=C1)OC)=O | C19H23N3O2
catalyst | palladium-carbon | [C].[Pd]
product | N-(4-methoxyphenylcarbamoyl)piperazine | Yield: 81.7% | COC1=CC=C(C=C1)NC(=O)N1CCNCC1 | C12H17N3O2
